Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___
 
Chief Complaint:
Tachypnea/stridor 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F pmh HTN, s/p hysterectomy, migraine headache and
recurrent peritonsillar abscess presented to the ___ today from
the ___ clinic after an acute episode of tachypnea and shortness
of breath as ___ clinic was concerned for potential PE. 

Per ___ Dash and confirmed with the patient she was seen by Dr.
___ ___ clinic where he noted significant tachypnea
without any stridor. He performed a nasopharyngeal scope, and 
per
the ___ resident discussion with Dr. ___ noted no
paradoxical vocal cord dysfunction at that time or any other
abnormalities. After the scope she became quite stridulous. On
the ___ resident's evaluation she was initially quite tachypneic,
stridulous, with retractions that improved with IV Ativan. On
reevaluation she was asymptomatic.

Per ___ notes, he performed a Flexible laryngoscopy ___
in his office, noting tonsillitis/pharyngitis, respiratory
distress with supraglottic hyperfunction moderate false vocal
compression,  no masses/vibratory margin irregularities were
noted and airway was  widely patent. 

In the ___, initial VS were: 97.9 F HR 134 148/70 RR 38 94% 3L NC 

Exam notable for:  Exam was notable for normal vitals, no
stridor, no increased WOB 5 minutes after patient sat down, no
c/r/w, no murmurs on exam, no pitting edema, no elevated JVP, no
clubbing or cyanosis. She was speaking in full sentences and
amenable to going home with outpatient work-up.  
EKG:  Sinus Tachycardia with leftward axis 
Labs showed: 
WBC 12K Hgb 17.5 Plt 376 MCV 89
Serum tox negative 
Ca++ 11.4 Mg++ 1.8 Phos 1.1
Na+ 139 BUN 21 Cr 0.8 
Trops <0.01 Ddime 271
VBG initially pH 7.75 pCO2 14 repeat pH 7.44 pCO2 36
Imaging showed:  
CXR PA&Lateral 
The lungs are clear without focal consolidation.  No pleural
effusion or pneumothorax is seen. The cardiac and mediastinal
silhouettes are 
unremarkable.  Large hiatal hernia with air-fluid level is again
seen. 

Consults:  None 
Patient received: 2 mg total IV Ativan and neutrophos   
 
Transfer VS were:  97.2F HR 92 BP 109/79  RR 17 100% RA 

On arrival to the floor, patient reports that she is breathing
comfortably. She is in no distress. She states she notes some
voice changes but it has been improving over the past ___ days.
Patient endorses a history of peritonisllar abscesses, usually
around this time of year, never strep positive until this year.
She states her initial presentation was to her primary care
doctor at the beginning of ___, then was sent to the ___ with CT neck noting a developing peritonsiallar 
abscess
and she was sent to ___, underwent eval with ENT and treated
with a 10 day course of augmentin after 24 hr observation. She
called her PCP yesterday AM, stating she still felt her glands
were swollen and that prompted the visit to the ENT doctor on
___ 
 

 
Past Medical History:
Hemorrhoids, external 
Anemia, iron deficiency 
Headache, variant migraine 
Pelvic mass in female LLQ 
Hypercholesterolemia 
H/O hysterectomy for benign disease 
Obesity, morbid, BMI 40.0-49.9 
Hypertension, essential 
Tonsillar abscess 
 
Social History:
___
Family History:
No family history of hematologic, autoimmune, immunodeficiency 
in
her family that she knows. 
Maternal Grandmother  Cancer 
___ Uncle  ___ Cancer 
Mother  ___ Cancer 
Other  Cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.4 PO 114 / 72 HR 60 16 97% RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM; mild erythema posterior pharynx 
NECK: supple, no LAD, no JVD; no throat swelling, no stridor   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
VITALS: ___ 1207 Temp: 97.5 PO BP: 119/81 HR: 96 RR: 20 O2
sat: 100% O2 delivery: Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM; OP clear
NECK: supple, no LAD, no JVD; no throat swelling, no stridor   
HEART: RRR, nl S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS:
=============================

___ 03:06PM BLOOD WBC-11.8* RBC-5.60* Hgb-17.5* Hct-50.0* 
MCV-89 MCH-31.3 MCHC-35.0 RDW-12.0 RDWSD-39.4 Plt ___
___ 03:06PM BLOOD Neuts-82.2* Lymphs-15.2* Monos-1.9* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-9.71* AbsLymp-1.80 
AbsMono-0.22 AbsEos-0.00* AbsBaso-0.02
___ 07:05AM BLOOD ___ PTT-29.6 ___
___ 03:06PM BLOOD Glucose-121* UreaN-21* Creat-0.8 Na-139 
K-4.1 Cl-94* HCO3-18* AnGap-27*
___ 03:06PM BLOOD cTropnT-<0.01
___ 08:18PM BLOOD cTropnT-<0.01
___ 03:06PM BLOOD Calcium-11.4* Phos-1.1* Mg-1.8
___ 09:40PM BLOOD D-Dimer-271
___ 03:06PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:11PM BLOOD ___ pO2-19* pCO2-14* pH-7.71* 
calTCO2-18* Base XS-0
___ 07:40AM BLOOD Lactate-1.1
___ 03:11PM BLOOD O2 Sat-44

DISCHARGE LABS:
============================

___ 07:05AM BLOOD WBC-8.8 RBC-4.30 Hgb-13.2 Hct-39.9 MCV-93 
MCH-30.7 MCHC-33.1 RDW-12.3 RDWSD-41.5 Plt ___
___ 07:05AM BLOOD Neuts-48.0 ___ Monos-6.1 Eos-0.5* 
Baso-0.5 Im ___ AbsNeut-4.21 AbsLymp-3.90* AbsMono-0.53 
AbsEos-0.04 AbsBaso-0.04
___ 07:05AM BLOOD Glucose-98 UreaN-16 Creat-0.7 Na-145 
K-3.5 Cl-102 HCO3-21* AnGap-22*
___ 07:05AM BLOOD Calcium-9.2 Phos-5.4* Mg-1.8
___ 07:40AM BLOOD ___ pO2-60* pCO2-42 pH-7.40 
calTCO2-27 Base XS-0 Comment-GREEN TOP 

MICRO:
===========================
 NO POSITIVE CULTURES

STUDIES:
========================
CHEST (PA & LAT) ___
FINDINGS:  
  
The lungs are clear without focal consolidation.  No pleural 
effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are 
unremarkable.  Large hiatal hernia with air-fluid level is again 
seen. 
  
IMPRESSION:  
  
No acute cardiopulmonary process. 
  
Large hiatal hernia. 
  

 
Brief Hospital Course:
___ yo F pmh HTN, s/p hysterectomy, migraine headache and
recurrent peritonsillar abscess presented to the ___ today from
the ___ clinic after an acute episode of tachypnea and shortness
of breath as ___ clinic was concerned for potential PE. 

#Tachypnea 
#Tachycardic
#Resp Alkalosis 
Unclear etiology for tachycardia/tachypnea. Initially felt to be 
consistent with a panic attack, however symptoms began earlier 
in the day with palipations with exertion. Initial concern at 
___ office for PE however tachycardia and tachypnea resolved 
with Ativan and pt with a normal DDimer make this diagnosis less 
likely. Patient had been taking reasonable fluid intake as 
outpatient so hypovolemia initially thought less likely. Patient 
ambulated with telemetry with reproduction of symptoms, and tele 
showed sinus tachycardia. 24 hour monitoring on telemetry did 
not show any arrhythmias. Borderline positive orthostatics. 
After 1L NS symptoms were dramatically improved and patient was 
asymptomatic with rapid ambulation. If symptoms recur, can 
consider stress test as outpatient.

# Peritonsillar abscess 
# C/F epiglottitis
Acutely presented to the ___ on ___ with c/f 
abscess/epiglottitis. At that time she was treated with dex, 
unasyn and evaluated by ENT with no drainage of the abscess
required. Seen by ENT in clinic ___ with widely patent airway. 
Patient on a prednisone taper currently on 20 mg and cefuroxime. 
Covered with unasyn/augmentin while hospitalized, will continue 
course of cefuroxime after d/c (not on formulary). Steroid taper 
dose and duration increased. Discussed with her ENT who again 
did not advise any further evaluation or repeat imaging. 

# Hypertension 
Held HCTZ given normotensive and mild hypovolemia.

TRANSITIONAL ISSUES:
=================================
[ ] BP well controlled without HCTZ during admission, can 
restart as needed/tolerated
[ ] If tachycardia/tachypnea recur, can consider stress test as 
outpatient.
[ ] Increased dose and duration of prednisone taper as in 
discharge medications.
[ ] Full Code
[ ] Contact: Next of Kin: ___ 
    Relationship: ___ 
    Phone: ___ 
    Other Phone: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cefUROXime axetil 500 mg oral BID 
2. PredniSONE 20 mg PO DAILY 
Tapered dose - DOWN 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
Tapered dose - DOWN 
RX *prednisone 10 mg 4 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  cefUROXime axetil 500 mg oral BID  
3. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until told to restart 
by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Peritonsillar abscess

SECONDARY DIAGNOSES
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
- Your heart was racing and you were breathing rapidly

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- You were given medicine to help to slow your breathing and IV 
fluids

WHAT SHOULD I DO WHEN I GO HOME?
- You should call your PCP and make an appointment for next week
- You should take your prednisone and antibiotics

Be well!

Your ___ Care Team
 
Followup Instructions:
___